US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)indolin-2-one:, using instead 3,3-dimethyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline as a starting material to afford 22.0 mg (19%) of (R)-4-((R)-1-((3-cyclopropyl-6-(3,3-dimethylindolin-6-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, d6-DMSO) δ 8.24 (s, 1H), 7.56 (s, 2H), 7.25 (dd, J=7.7 Hz, J=1.4 Hz, 1H), 7.15 (d, J=1.5 Hz, 1H), 7.01 (d, J=7.7 Hz, 1H), 5.53 (m, 2H), 3.68 (m, 1H), 3.41 (m, 1H), 3.20 (m, 3H), 2.82 (m, 1H), 2.33 (m, 2H), 1.40 (d, J=6.2 Hz, 3H), 1.23 (s, 6H), 1.18 (m, 5H). MS (ESI+) m/z 432.2 (M+H).

reactant | 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)indolin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C1CC(NC1=C2)=O)O[C@H](C)[C@H]2CNC(C2)=O | C23H23N5O3
reactant | 3,3-dimethyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline | CC1(CNC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C | C16H24BNO2
product | (R)-4-((R)-1-((3-cyclopropyl-6-(3,3-dimethylindolin-6-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 22.0 mg, 19% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C1C(CNC1=C2)(C)C)O[C@H](C)[C@@H]2CC(NC2)=O | C25H29N5O2
